Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
RUQ pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr ___ is a ___ with HTN, HL, BPH, and recent admission to 
___ for ___ in setting of dehydration/poor PO 
intake who presented with RUQ abdominal pain and elevated LFTs.

He says that he was in his usual state of health until about ___ 
weeks ago when he developed dry cough, poor appetite, and 
diminished PO intake. He was evaluated at ___ and 
was admitted ___ prior to ___ for acute renal 
failure. He was given IVF and his medications were held. No 
cause for his initial symptoms was identified, but he steadily 
improved and was discharged to home.

He says he was feeling well and eating well by ___. He 
continued to do well and had lab work on ___ at his PCP 
office, which was reportedly very encouraging with normalization 
of his renal function. Then, on ___ evening, he 
expereienced postprandial right sided back discomfort which 
slowly transformed into RUQ pain. It became increasingly severe, 
somewhat wavelike. He described the pain as pressurelike. He 
went back to ___. There he had stable vitals. Labs 
showed mild leukocytosis, elevated LFT with T bil 1.3 (ULN is 
1.0 at ___), ALT 155, AST 232, AP 271. He had RUQ US which showed 
gallbladder sludge and possible acalculous cholecystitis. HIDA 
was performed and was negative. Given elevated LFT, possible 
cholecytitis with negative HIDA, there was concern for CBD stone 
so he was transferred to ___. Of note, EKG there apparently 
showed atrial fibrillation; he was seen by Cardiology at 
___ who recommended he initiate longterm anticoagulation 
but no other med changes.

In our ED, vitals were stable. Labs showed transaminitis. 
Admission was requested for ERCP eval, MRCP.

He currently reports feeling improved. Denies f/c/s, n/v/d/c, 
cp/sob. Still has mild dry cough, though it is improving. ROS is 
otherwise negative in 10 points except as noted.
 
Past Medical History:
PMH: HTN, HL, BPH, and recent admission to ___ for 
___ in setting of dehydration/poor PO intake; diverticulitis, 
appendicitis

PSH: Left hip replacement
 
Social History:
___
Family History:
No history of gallstones
 
Physical Exam:
Vitals AVSS
Gen NAD, quite pleasant
Abd soft, ND, bs+; tender to palpation in the RUQ
CV irregular, no MRG
Lungs CTA ___
Ext WWP, no edema
Skin no rash, anicteric
GU no foley
Eyes EOMI
HENT MMM, OP clear
Neuro nonfocal, moves all extremities, steady gait
Psych normal affect

97.6 132/80 70
aox3
calm and attentive
clear lungs
mostly regular s1 and s2, occasionally early beat
slight tenderness to palpation RUQ, no guarding or rebound
abd not distended

 
Pertinent Results:
Labs on admission:
___ 05:42PM BLOOD WBC-6.5 RBC-4.22* Hgb-11.9* Hct-38.7* 
MCV-92 MCH-28.2 MCHC-30.7* RDW-14.2 RDWSD-47.9* Plt ___
___ 05:42PM BLOOD Neuts-73.4* Lymphs-16.9* Monos-6.3 
Eos-1.4 Baso-0.6 Im ___ AbsNeut-4.77 AbsLymp-1.10* 
AbsMono-0.41 AbsEos-0.09 AbsBaso-0.04
___ 05:42PM BLOOD ___ PTT-31.2 ___
___ 05:42PM BLOOD Glucose-97 UreaN-22* Creat-0.9 Na-142 
K-4.0 Cl-107 HCO3-23 AnGap-16
___ 05:42PM BLOOD ALT-192* AST-119* AlkPhos-221* 
TotBili-1.3
___ 05:42PM BLOOD Lipase-54
___ 05:42PM BLOOD Albumin-3.4*

I reviewed imaging findings with ___ radiologist including 
hida and ultrasound performed at osh

MRCP prelim:
  
Please note that the study is slightly limited given patient 
unable to hold 
his breath during the exam and hence a non breath hold technique 
was utilized. 
  
Lower Thorax: Bilateral trace pleural effusions, right greater 
than left with 
bibasilar subsegmental atelectasis. Partially visualized a more 
focal 
atelectasis at the left lung posteriorly. Focal consolidation 
cannot be ruled 
out. No pericardial effusion. 
  
Liver: Liver demonstrates normal contours without morphological 
signs of liver 
cirrhosis. No hepatic steatosis. No suspicious enhancing hepatic 
mass 
lesions. 
  
Biliary: Gallbladder is distended containing biliary sludge. No 
gallbladder 
wall thickening or pericholecystic fluid to suggest acute 
cholecystitis. No 
intrahepatic or extrahepatic biliary duct dilatation. The common 
bile duct 
tapers normally towards the ampulla without obstructing filling 
defects or 
choledocholithiasis. 
  
Pancreas: Pancreas is normal in morphology and signal 
characteristics without 
dilatation of the main pancreatic duct. No peripancreatic fluid 
collections. 
  
Spleen: Spleen is normal in size and signal characteristics. It 
enhances 
homogeneously without focal mass lesion. 
  
Adrenal Glands: Adrenal glands are normal bilaterally without 
focal nodules. 
  
Kidneys: Kidneys are symmetric in size bilaterally and 
demonstrate good 
corticomedullary differentiation. There is a 2.0 x 1.5 cm simple 
renal cyst 
at the interpolar region of the left kidney. 
  
Gastrointestinal Tract: The stomach and visualized small bowel 
loops in the 
upper abdomen are within normal limits. There are few scattered 
colonic 
diverticulosis. Small amount of free fluid in the upper abdomen, 
likely 
related to third spacing. 
  
Lymph Nodes: No suspicious mesenteric, retroperitoneal or porta 
hepatis 
lymphadenopathy by size criteria. 
  
Vasculature: Abdominal aorta is normal in caliber and its major 
branches are 
patent. The splenic vein, SMV, portal vein and hepatic veins are 
patent. 
  
Osseous and Soft Tissue Structures: No suspicious osseous or 
soft tissue mass 
lesions. 
  
IMPRESSION:  
  
1. No intrahepatic biliary duct dilatation. No 
choledocholithiasis. 
  
2. Biliary sludge without MRI findings of acute cholecystitis. 
  
3. Bilateral trace pleural effusions, with partially visualized 
focal 
atelectasis in the left lung posteriorly. Focal consolidation 
cannot be ruled 
out on MRI. Correlation with chest x-ray is recommended. 

CXR
  
Compared to chest radiograph ___. 
  
Pulmonary vascular congestion has increased but there is no 
pulmonary edema.  
There is not sufficient focal pulmonary abnormality to question 
pneumonia.  
Heart size top-normal.  Tiny pleural effusions are likely, but 
not necessarily 
changed. 

___ 08:25AM BLOOD WBC-8.8 RBC-4.12* Hgb-11.6* Hct-37.5* 
MCV-91 MCH-28.2 MCHC-30.9* RDW-14.1 RDWSD-46.8* Plt ___
___ 08:25AM BLOOD ___ PTT-32.1 ___
___ 08:25AM BLOOD Glucose-125* UreaN-24* Creat-1.0 Na-144 
K-4.0 Cl-108 HCO3-26 AnGap-14
___ 08:25AM BLOOD ALT-183* AST-83* AlkPhos-246* TotBili-1.1
 
Brief Hospital Course:
This is a ___ with HTN, HL, BPH, and recent admission to 
___ for ___ in setting of dehydration/poor PO 
intake who presented with RUQ abdominal pain and elevated LFTs. 
Also with apparently new atrial fibrillation.

# RUQ abdominal pain
# Transaminitis
# Possible choledocholithiasis.  ACS and ERCP consulted.  He 
underwent MRCP at ___ that showed  
1. No intrahepatic biliary duct dilatation. No 
choledocholithiasis. 
  
2. Biliary sludge without MRI findings of acute cholecystitis. 

He already had abdominal ultrasound and hida at OSH that did not 
show acute cholecystitis and showed gallbladder sludge.

He was not felt to require ERCP or urgent cholecystectomy and he 
had no features of acute cholangitis.  

There is no indication for
emergent/urgent surgical intervention for cholecystectomy. The
patient only has one episode of ?biliary colic. He can either
follow up with us in the clinic or follow up with his local
surgeon if his symptoms continue to persist or recurs.  
 
#New atrial fibrillation: Seems rate controlled. He denied past 
history of this to me. His CHADS is 2. No CP, SOB.  He was 
monitored on tele and converted to sinus rhythm.  I spoke with 
NP at his cardiologists office to relay this new diagnosis of 
afib and that patient will need cardiology f/u.  Patient and 
wife told me that his MD at ___ who transferred 
him had prescribed him eliquis (apixiban) to take when he 
returns home.  I went over safe use of anticoagulant and warning 
signs of stroke.  I discussed that his cardiologist can do more 
tests such as event monitor if needed to determine if this 
requires long term anticoagulation.  Continued coreg.

# HTN
# HL
# BPH: Seemingly stable. Recently taken of statin in setting of 
bout of ___.
- Continue home medications

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Carvedilol 3.125 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
gallbladder sludge
afib

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
you were hospitalized to evaluate for possible problems related 
to gallstones.  you did not have evidence of an infected 
gallbladder or gallstones stuck in the bile ducts

at the other hospital you were diagnosed with atrial 
fibrillation.  this is an irregular heart rhythm and is a risk 
factor for stroke.  we reviewed the signs and symptoms of stroke 
(face, arm, speech)

at the other hospital you were prescribed eliqus (apixiban) for 
reducing risk of stroke from afib, this is a blood thinner

we discussed that you should seek medical attention for any 
serious bleeding and review this medication before any 
procedures

you will speak with your cardiologist about continuing this 
medicine 
 
Followup Instructions:
___